US04329347
6-[4-(2-Benzimidazolyl-mercapto)-butoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 1 from 6-(4-chlorobutoxy)-3,4-dihydro-carbostyril (m.p. 147°-148° C.) and 2-mercapto-benzimidazole.

reactant | 6-(4-chlorobutoxy)-3,4-dihydro-carbostyril | ClCCCCOC=1C=C2CCC(NC2=CC1)=O | C13H16ClNO2
reactant | 2-mercapto-benzimidazole | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
product | 6-[4-(2-Benzimidazolyl-mercapto)-butoxy]-3,4-dihydro-carbostyril | N1=C(NC2=C1C=CC=C2)SCCCCOC=2C=C1CCC(NC1=CC2)=O | C20H21N3O2S
